2178-04-19 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2178-4-19**] 05:37 AM
   - NSTEMI: rising troponis, MB, CK
   - started on heparin gtt, aspirin, bblocker
   - flu negative
   - Urine tox negative
   - [**Hospital1 147**] records obtained -- adenocarcinoma of prostate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-4-18**] 09:51 AM
   Cefipime - [**2178-4-18**] 01:07 PM
   Ciprofloxacin - [**2178-4-18**] 07:41 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Metoprolol - [**2178-4-18**] 07:50 AM
   Furosemide (Lasix) - [**2178-4-18**] 07:55 AM
   Heparin Sodium - [**2178-4-18**] 02:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-4-19**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.1
C (97
   HR: 93 (82 - 125) bpm
   BP: 139/88(99) {125/78(89) - 166/107(117)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,207 mL
                                                                    150 mL
   PO:
                                                                  1,830 mL
             TF:
   IVF:
                                                                  2,377 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    540 mL
   Urine:
                                                                  2,930 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,277 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: tight, wheezy, decreased breath sounds
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: no edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   11.9 g/dL
   175 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   20 mg/dL
   110 mEq/L
   142 mEq/L
   34.7 %
   21.9 K/uL
        [image002.jpg]
                             [**2178-4-18**]  04:39 AM
                             [**2178-4-18**]  12:59 PM
                             [**2178-4-18**]  07:28 PM
                             [**2178-4-19**]  01:07 AM
   WBC
   5.1
   22.0
   21.9
   Hct
   34.9
   35.9
   34.7
   Plt
   [**Telephone/Fax (3) 1891**]
   Cr
   1.2
   TropT
   0.16
   0.26
   Glucose
   175
   Other labs: PT / PTT / INR:14.1/84.0/1.2, CK / CKMB /
   Troponin-T:614/39/0.26, Differential-Neuts:77.0 %, Band:18.0 %,
   Lymph:0.0 %, Mono:2.0 %, Eos:0.0 %, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.5 mg/dL
   Imaging: CTA chest [**2178-4-18**]
   IMPRESSION:
   1.  No pulmonary embolus or aortic dissection.
   2.  Hepatic hypodensities for which ultrasound is recommended for
   characterization.
   Microbiology: blood cultures negative to date
   urine culture pending
   Assessment and Plan
   72 y/o M with h/o HTN admitted with fevers with possible Urinary source
   and NSTEMI
   NSTEMI: Patient with rising cardiac enzymes but no EKG changes. Patient
   was diaphoretic and short of breath in the AM. [**Month (only) 60**] be demand related
   with underlying infection.
   - start aspirin, bblocker, heparin gtt
   - increase metoprolol to 25 TID
   - add statin
   - continue to follow CE and EKG
   - ECHO ordered for Monday
   - continue heparin until cardiac enzymes start to trend down.
   - should f/u with his PCP about cardiology [**Name Initial (PRE) **]/u.
   SOB: acute respiratory distress upon arrival to the floor. And
   intermittent episodes of such since. Most likely related to NSTEMI.
   Considering allergic reaction yesterday, but this is unlikely, can
   discontinue steroids
   - CTA negative
   - standing nebs (xopenex and iprtroprium)
   - flu negative
   - consider lasix after CXR from this morning for SOB
   Prostate biopsy: results obtained from [**Hospital1 147**], biopsy posistive for
   adenocarcinoma of the prostate. Have NOT told patient yet.
   - Defer to primary [**Hospital1 147**] team?
   -  Most of his care is there
   Fevers/UTI: leukocytosis, left shift,likely from urinary source. He had
   a couple of episodes of diarrhea over last two days as well. No
   respiratory symptoms.  Patient also got several doses of steroids
   yesterday
   - f/u blood cx
   - f/u urine cx
   - will continue broad spectrum antibiotics with double coverage for
   Klebsiella ESBL with cefepime and cipro, day 2 for both. (day 1 [**4-18**])
   - r/o flu
   Acute Renal Failure: Resolved. unclear baseline, at [**Hospital1 147**] 1.5. Likely
   pre-renal given poor po intake over last 2 days. now 1.2, normalized
   - will give iv fluids
   - urine lytes: FeNa 1.3%
   HTN: continue amlodipine and metoprolol. continue valsartan today (ARF
   resolved)
   ICU Care
   Nutrition: cardiac heart healthy and low sodium
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2178-4-18**] 08:05 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP:  not indicarted
   Code status:  Full
   Disposition: To floor today

2178-04-19 08:30:00 Physician Attending Progress Note
Chief Complaint: resp distress, presumed UTI, NSTEMI
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 hr events
   NSTEMi with rising trop MBI
   started heparin, ASA, bblocker
   DFA negative
   OSH Bx + adenocarcinoma of prostate
   24 Hour Events:
 URINE CULTURE - At [**2178-4-19**] 05:37 AM
   History obtained from Patient, Family / Friend
   Allergies:
   [**Name2 (NI) 59**] Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-4-18**] 09:51 AM
   Cefipime - [**2178-4-18**] 01:07 PM
   Ciprofloxacin - [**2178-4-18**] 07:41 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Heparin Sodium - [**2178-4-18**] 02:41 PM
   Other medications:
   Amlodipine
   HC 100 q8
   ASA 325
   Lopressor 25 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2178-4-19**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (96.9
   HR: 98 (82 - 121) bpm
   BP: 149/91(104) {125/78(89) - 166/97(112)} mmHg
   RR: 26 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,207 mL
                                                                    162 mL
   PO:
                                                                  1,830 mL
             TF:
   IVF:
                                                                  2,377 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  2,930 mL
                                                                    690 mL
   Urine:
                                                                  2,930 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,277 mL
                                                                   -528 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Alert, lying in bed, diaphoretic and dyspneic
   JVP flat and 7cm
   CV: tachy RRR
   Chest: bibasilar rales and end exp wheezes
   Abd: soft NT +BS
   Ext: no edema
   Back: no CVA tenderness
   Neurologic: A and O x 3
   Labs / Radiology
   11.9 g/dL
   242 K/uL
   175 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.6 mEq/L
   20 mg/dL
   110 mEq/L
   142 mEq/L
   34.7 %
   21.9 K/uL
        [image002.jpg]
                             [**2178-4-18**]  04:39 AM
                             [**2178-4-18**]  12:59 PM
                             [**2178-4-18**]  07:28 PM
                             [**2178-4-19**]  01:07 AM
   WBC
   5.1
   22.0
   21.9
   Hct
   34.9
   35.9
   34.7
   Plt
   [**Telephone/Fax (3) 1891**]
   Cr
   1.2
   TropT
   0.16
   0.26
   Glucose
   175
   Other labs: PT / PTT / INR:14.1/84.0/1.2, CK / CKMB /
   Troponin-T:614/39/0.26, Differential-Neuts:77.0 %, Band:18.0 %,
   Lymph:0.0 %, Mono:2.0 %, Eos:0.0 %, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.5 mg/dL
   Imaging: CTA neg for PE
   hepatic hypodensities that need further characterization
   Microbiology: UA +
   Blood and Urine pending
   Assessment and Plan
   1.       NSTEMI: in setting of severe HTN tachy and fevers, diaphoresis
   but no chest pain. Rx ASA, increase bblocker and heparin gtts x 48 hrs.
   Start statin. Check ECG this AM. Will need Cardiology follow up for
   stress testing and possible cath when stable and infection resolved.
   2.       Resp Distress: most likely due to pulm edema in setting of
   NSTEMI. D/C steroids.
   3.       UTI: post prostate Bx, on Cipro/Cefipime
 following up on
   cultures
   4.       ARF: Cr down to 1.2, follow trend and UOP
   ICU Care
   Nutrition: AHA diet
   Glycemic Control:  FS
   Lines:
   18 Gauge - [**2178-4-18**] 08:05 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: po diet
   VAP: N/A
   Comments:
   Communication:  Comments: wife- will need to discuss prelim results of
   prostate Bx at [**Hospital1 1817**] adenoCa
   Code status: FULL
   Disposition : call out
   Total time spent: 35

2178-04-20 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Statin started
   Beta blocker titrated rapidly
   Ck
s trending down, heparin gt
s remained on
   Supplemetal o2 decreased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-4-18**] 09:51 AM
   Cefipime - [**2178-4-19**] 12:00 PM
   Ciprofloxacin - [**2178-4-19**] 08:24 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Metoprolol - [**2178-4-19**] 07:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-4-20**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 92 (86 - 104) bpm
   BP: 167/99(117) {137/81(97) - 188/141(149)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,386 mL
                                                                    395 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    546 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    470 mL
   Urine:
                                                                  1,455 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -69 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): p,p,d, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   231 K/uL
   12.6 g/dL
   121 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   26 mg/dL
   106 mEq/L
   140 mEq/L
   37.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2178-4-18**]  04:39 AM
                             [**2178-4-18**]  12:59 PM
                             [**2178-4-18**]  07:28 PM
                             [**2178-4-19**]  01:07 AM
                             [**2178-4-19**]  10:40 AM
                             [**2178-4-19**]  04:14 PM
                             [**2178-4-20**]  04:23 AM
   WBC
   5.1
   22.0
   21.9
   18.3
   Hct
   34.9
   35.9
   34.7
   37.0
   Plt
   [**Telephone/Fax (3) 1897**]31
   Cr
   1.2
   1.0
   TropT
   0.16
   0.26
   0.29
   0.27
   0.23
   0.29
   Glucose
   175
   121
   Other labs: PT / PTT / INR:12.4/50.8/1.0, CK / CKMB /
   Troponin-T:523/11/0.29, ALT / AST:34/74, Alk Phos / T Bili:86/0.7,
   Differential-Neuts:87.4 %, Band:0.0 %, Lymph:8.0 %, Mono:4.4 %, Eos:0.1
   %, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.0 mg/dL
   MICRO
   [1][**2178-4-19**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [2][**2178-4-18**]
   Rapid Respiratory Viral Screen & Culture
   Rapid Respiratory Viral Antigen Test-FINAL; VIRAL CULTURE-PENDING
   INPATIENT
   [3][**2178-4-18**]
   URINE
   URINE CULTURE-FINAL {GRAM NEGATIVE ROD(S)}
   INPATIENT
   [4][**2178-4-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [5][**2178-4-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   72 y/o M with h/o HTN admitted with fevers with possible Urinary source
   and NSTEMI
    # CARDS
   **NSTEMI
   CK now declining, Trop @ plateau.  Unclear if this was primary event,
   or secondary to demand w/ HTN /Tachycardia in setting of infection and
   acute cardio-respiratory compromise during code (no shock, compression,
   loss of BP/pulse, or intubation).
   Will check EKG today.
   Will optimize medical regimen, w/ HR and BP control.  Cont heparin gtts
   currently while still w/ Trop at plateau, ? ongoing ischemia.
   -          metoprolol 125 mg tid
   -          valsartan 160 mg daily
 can titrate up
   -          cont atorvastatin 10 mg daily-> checking lipid panel
   -          cont asa
   -          cont heparin gtts
   -          will ask cards to see patient to help w/ med management
   -          TTE
    # PULM
   Unclear why patient had respiratory distress, tachycardia, htn.  Was
   though to ? have allergic response, although this is less clear.  [**Month (only) 60**]
   be related to NSTEMI.  CTA was negative.
   - standing nebs (xopenex and iprtroprium)
   - wean o2
   # Liver Nodules on CT
   Unclear [**Name2 (NI) **], however in setting of adenoCA of prostate, concern for
   mets?
   Stable LFTs.
   -          Check abd ultrasound
   # Prostate biopsy
   Results obtained from [**Hospital1 147**], biopsy posistive for adenocarcinoma of the
   prostate. Have NOT told patient yet.
   Will establish f/u w/ [**Hospital1 147**].  Pending when this appt is, will probably
   disclose news today to patient -> once plan for follow up and treatment
   / etc are established.
   # Fevers
   Likely urinary source, UTI vs prostatitis (esp given bx) on ddx.  Urine
   cx w/ [**Last Name (LF) **], [**First Name3 (LF) **] will d/c vanco.
   Cont cefepime / cipro for double coverage.  Will await S+S to peel off
   antibiotics.
   Acute Renal Failure: Resolved. unclear baseline, at [**Hospital1 147**] 1.5. Likely
   pre-renal given poor po intake over last 2 days. now 1.2, normalized
   - will give iv fluids
   - urine lytes: FeNa 1.3%
   HTN: continue amlodipine and metoprolol. continue valsartan today (ARF
   resolved)
   ICU Care
   Nutrition:
   Cardiac diet
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2178-4-18**] 08:05 AM
   Prophylaxis:
   DVT: heparin gtts
   Stress ulcer: none indicated
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: to floor
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2178-04-20 11:16:00 Physician Attending Progress Note
Chief Complaint: resp distress NSTEMI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Peaked trop and CK
   Started on Statin
   BP remained elevated bblocker titrated up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-4-18**] 09:51 AM
   Cefipime - [**2178-4-19**] 12:00 PM
   Ciprofloxacin - [**2178-4-19**] 08:24 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Metoprolol - [**2178-4-19**] 07:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: HTN
   Flowsheet Data as of  [**2178-4-20**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 92 (86 - 104) bpm
   BP: 169/102(116) {137/81(97) - 188/141(149)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,386 mL
                                                                    723 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    546 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    740 mL
   Urine:
                                                                  1,455 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -69 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Alert, lying in bed, NAD, breathing comfortably
   JVP flat and 7cm
   CV: tachy RRR
   Chest: bibasilar rales without wheezes
   Abd: soft NT +BS
   Ext: no edema
   Back: no CVA tenderness
   Neurologic: A and O x 3
   Labs / Radiology
   12.6 g/dL
   231 K/uL
   121 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   26 mg/dL
   106 mEq/L
   140 mEq/L
   37.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2178-4-18**]  04:39 AM
                             [**2178-4-18**]  12:59 PM
                             [**2178-4-18**]  07:28 PM
                             [**2178-4-19**]  01:07 AM
                             [**2178-4-19**]  10:40 AM
                             [**2178-4-19**]  04:14 PM
                             [**2178-4-20**]  04:23 AM
   WBC
   5.1
   22.0
   21.9
   18.3
   Hct
   34.9
   35.9
   34.7
   37.0
   Plt
   [**Telephone/Fax (3) 1897**]31
   Cr
   1.2
   1.0
   TropT
   0.16
   0.26
   0.29
   0.27
   0.23
   0.29
   Glucose
   175
   121
   Other labs: PT / PTT / INR:12.4/50.8/1.0, CK / CKMB /
   Troponin-T:523/11/0.29, ALT / AST:34/74, Alk Phos / T Bili:86/0.7,
   Differential-Neuts:87.4 %, Band:0.0 %, Lymph:8.0 %, Mono:4.4 %, Eos:0.1
   %, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   1.       NSTEMI: in setting of severe HTN tachy and fevers, diaphoresis
   but no chest pain. Rx ASA, statin, increase bblocker and continue
   heparin gtts. Checkrepeat ECG this AM. Will need Cardiology consult
   today for discussion re: possible cath when stable and infection
   resolved versus max med management.
   2.       Resp Distress: most likely due to pulm edema in setting of
   NSTEMI. Improved.
   3.       UTI: post prostate Bx, on Cipro/Cefipime
 following up on
   cultures- 1000 colonies most recently. Would repeat UA and CX and d/c
   foley. Should have cleared
 check prostate exam and if painful call
   Urology should be consulted.
   4.       ARF: Cr down to 1.0, follow trend and UOP
   5.       Liver nodule: ultrasound today to better characterize
   ICU Care
   Nutrition: AHA diet
   Glycemic Control:  SSRI
   Lines:
   18 Gauge - [**2178-4-18**] 08:05 AM
   Prophylaxis:
   DVT: heparin gtts
   Stress ulcer: po diet
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition : call out
   Total time spent: 40